US05977363
Preparation of 4-[(α,α,α-Trifluoro-4-nitro-m-tolyl)oxy]-6-[(α,α,α-trifluoro-m-tolyl)oxy]pyrimidine-4,6-Difluoropyrimidine Art Process
A mixture of 4-fluoro-6-[(α,α,α-trifluoro-m-tolyl)oxy]pyrimidine (87.4 g, 0.34 mol), α,α,α-trifluoro-4-nitro-m-cresol (84.9 g, 0.41 mol) and potassium carbonate (55 g, 0.40 mol) in N,N-dimethylformamide (1 L) is stirred at room temperature until the reaction is complete by thin layer chromatography analysis (8:1 hexanes/ethyl acetate). The reaction mixture is then poured into water and the resultant aqueous mixture is extracted with diethyl ether. The organic extract is dried over anhydrous magnesium sulfate and concentrated in vacuo to obtain a solid. The solid is recrystallized from an ethyl acetate/heptane solution to give the title product as a white solid (108 g, 71% yield).

reactant | 4-fluoro-6-[(α,α,α-trifluoro-m-tolyl)oxy]pyrimidine | 0.34 mol, 87.4 g | FC1=NC=NC(=C1)OC=1C=C(C=CC1)C(F)(F)F | C11H6F4N2O
reactant | α,α,α-trifluoro-4-nitro-m-cresol | 0.41 mol, 84.9 g | FC(C1=CC(=CC=C1[N+](=O)[O-])O)(F)F | C7H4F3NO3
reactant | potassium carbonate | 0.40 mol, 55 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
reactant | N,N-dimethylformamide | 1 L | CN(C=O)C | C3H7NO
product | 4-[(α,α,α-Trifluoro-4-nitro-m-tolyl)oxy]-6-[(α,α,α-trifluoro-m-tolyl)oxy]pyrimidine 4,6-Difluoropyrimidine | 108 g, 71% yield | FC(C1=CC(=C(C=C1)[N+](=O)[O-])OC1=NC=NC(=C1)OC=1C=C(C=CC1)C(F)(F)F)(F)F.FC1=NC=NC(=C1)F | InChI=1S/C18H9F6N3O4.C4H2F2N2/c19-17(20,21)10-2-1-3-12(6-10)30-15-8-16(26-9-25-15)31-14-7-11(18(22,23)24)4-5-13(14)27(28)29;5-3-1-4(6)8-2-7-3/h1-9H;1-2H
